US04391958
Production of 1,3,5-tris(aminomethyl)benzene
In a 300 ml capacity, magnetic-stirring autoclave was sealed 15 g of 1,3,5-tricyanobenzene (MTN), together with 15 g of Raney nickel chromium catalyst (atomic ratio of Ni:Cr=49:1), 27 ml of methanol, 63 ml of m-xylene and 0.18 g of caustic soda. Hydrogen was charged under pressure into it at initial pressure of 100 kg/cm2G, and the reaction was carried out at 100° C., whereby 0.59 mole of hydrogen was absorbed for 35 minutes. The catalyst was filtered out, and the solvent was distilled off, followed by distilling under reduced pressure, thereby yielding 12.8 g of colorless crystals of 1,3,5-tris(aminomethyl)-benzene (MTA). The substance exhibited melting point of 49° to 51° C. and boiling point of 136° to 139° C./0.4 mmHg.

reactant | 1,3,5-tricyanobenzene | 15 g | C(#N)C1=CC(=CC(=C1)C#N)C#N | C9H3N3
reactant | methanol | 27 ml | CO | CH4O
reactant | Hydrogen | [H][H] | H2
reactant | hydrogen | 0.59 mole | [H][H] | H2
catalyst | caustic soda | 0.18 g | [OH-].[Na+]
solvent | m-xylene | 63 ml | C1(=CC(=CC=C1)C)C | C8H10
product | 1,3,5-tris(aminomethyl)benzene | 12.8 g | NCC1=CC(=CC(=C1)CN)CN | C9H15N3
